US06861552B2
200 ml of toluene and 1 g of p-toluenesulfonic acid were added to 70 g of 1-adamantanol and 50 g of methacrylic acid. They were subjected to a reaction with heating and stirring, while water was distilled off using a Dean-Stark trap. The resulting organic phase was washed with water, a 10 mass % aqueous sodium hydrogencarbonate solution and water in this order and distilled to obtain crude 1-adamantyl methacrylate (a crude product) having a purity of 91 mass %.

reactant | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
reactant | p-toluenesulfonic acid | 1 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | 1-adamantanol | 70 g | C12(CC3CC(CC(C1)C3)C2)O | C10H16O
reactant | methacrylic acid | 50 g | C(C(=C)C)(=O)O | C4H6O2
solvent | water | O | H2O
product | 1-adamantyl methacrylate | C(C(=C)C)(=O)OC12CC3CC(CC(C1)C3)C2 | C14H20O2
